Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old male with metastatic renal cell to 
brain, spine, larynx, liver and lung, s/p avastin, recurrent 
pulmonary emboli on lovenox who was discharged from ___ on 
___ s/p hemoarrhagic brain lesion presented to the ED 
yesterday for erythema and swelling around his trache site. His 
symptoms started around 3 days ago, with progressive erythema 
and edema, no fevers, or discharge. He had simillar episode of 
localized infection in the past.
Of note, He has a history of subglottic stenosis secondary to 
metastatic disease.  He had a T-tube placed approximately ___ 
years ago for treatment of this.  Since that time, he has noted 
progressive dysphonia with intermittent aphonia. Therefore he 
was seen on ___ by ENT and underwent a flexible 
laryngoscopy and tracheoscopy, with future plan for balloon 
dilation of subglottis and replacement of T-tube with a longer 
upper limb. 
.  
In the ED, he was given vancomycine and admitted to observation. 
As his erythema continued to spread despite abx over the 
subsequent 24 hr, he was given cefazolin in addition and 
admitted to inpatient service for further management.  

 
Past Medical History:
Bilateral pulmonary emboli ___ and ___
Bilateral pulmonary embolism in ___, on long term 
warfarin 
Left lower pulmonary artery PE ___ --> changed from warfarin 
to lovenox
Resection of pulmonary metastasis ___
Resection of a subglottic metastasis requiring tracheotomy ___
Hypertension since ___
BPH since ___, 
History of colonic adenomas ___ and ___, stable
Hx of pancreatic cyst ___, stable
Stress fracture of right fibula ___
Left eye epithelial retina membrane ___ (slight distortion 
of
lines of vision)
Umbilical hernia since ___
Depression since ___
Left forearm lipoma since ___
Diverticulosis since unknown
.
Oncology History: 
- ___, left lower lobe nodule found on routine scan.
- ___, VATS procedure with resection of the lesion.
- ___, pulmonary recurrence.
- ___, pulmonary resection.
- ___, multiple new lung nodules as well as bony sclerotic
lesions and liver lesion.
- ___, one cycle of interleukin-2 therapy.
- ___, removal of excess subglottic tissue and pathology
was consistent with metastatic renal carcinoma, larynx and
subglottic metastasis resection with a permanent tracheostomy.
- ___, staging MRI mass in the posterior right
temporal lobe.
- ___, CyberKnife radiosurgery to the left
posterior temporal lobe lesion.
- ___, Sutent therapy, progressed on Sutent last dose
in ___.
- ___, gadolinium-enhanced lumbosacral spine MRI showed
left posterior vertebral body L1 metastasis.
- ___, began Avastin, temsirolimus trial ___.
- ___, taken off the trial due to progression of
disease. New nodule seen on CT scan of torso.
- ___, started Avastin monotherapy.
- ___:  Worsening back pain. MRI lumbar spine ___
showed epidural disease at L1.
- Last dose avastin ___
 
Social History:
___
Family History:
Father: congestive heart failure, Mother: leukemia.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T; 98.5, BP: 120/70; HR: 91, RR: 20, 93% 50% trache mask 
 
General: NAD, pleasant, appropriate. 
HEENT: oropharynx clear, at trache site visible erythema 5cm in 
diameter, marked, some surrounding edema. no fluctuation or 
discharge  
Neck: JVP not elevated, no LAD  
Lungs: CTAB, expiratory wheezes with forced expiration, no 
rales, rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: +BS, Obese soft, non-tender, + BS  
Ext: no edema
.
DISCHARGE PHYSICAL EXAM:\Vitals: 98.8 120/70 85 18 95% via TM  
General: Patient sitting at edge of the bed, alert and 
interactive in no acute distress  
HEENT: MMM. OP without erythema, edema, or ulcerations  
NECK: Marked improvement in erythema receeding from the marked 
borders.  
CV: RRR. Nml S1 and S2. No M/R/G  
Lungs: CTAB. Well-healed incision on the right side of the back. 
 
Abd: BS+. Soft. NT/ND  
Ext: WWP. ___ hose in place. Trace pitting edema bilaterally. No 
clubbing or cyanosis.  
NEURO: CRANIAL NERVES: Poor lateral gaze on the right, otherwise 
CNs intact.  

 
Pertinent Results:
ADMISSION LABS:
___ 11:00AM BLOOD WBC-7.0 RBC-4.45* Hgb-11.9* Hct-36.5* 
MCV-82 MCH-26.7* MCHC-32.5 RDW-17.4* Plt ___
___ 11:00AM BLOOD Neuts-84.0* Lymphs-8.8* Monos-6.0 Eos-0.8 
Baso-0.4
___ 11:00AM BLOOD Glucose-127* UreaN-22* Creat-1.2 Na-132* 
K-4.3 Cl-98 HCO3-24 AnGap-14
.
DISCHARGE LABS:
___ 06:55AM BLOOD WBC-5.4 RBC-4.07* Hgb-10.8* Hct-32.5* 
MCV-80* MCH-26.5* MCHC-33.2 RDW-17.6* Plt ___
___ 06:55AM BLOOD Glucose-99 UreaN-18 Creat-1.2 Na-132* 
K-4.2 Cl-97 HCO3-27 AnGap-12
.
MICROBIOLOGY:
BLOOD CULTURES: NO GROWTH FINAL 
 
Brief Hospital Course:
#Cellulitis around the trach site: The development of the 
patient's cellulitis was thought to be due to recent 
instrumantation of the trach site (s/p flexible laryngoscopy and 
tracheoscopy on ___ by ENT. The patient received 1 dose of 
Keflex and 2 doses of vancomycin in the ED without improvement 
in the patient's symptoms, and thus was admitted. The patient 
was continued on IV vancomycin upon admission to the floor. With 
improvement in the erythema and swelling the patient was 
transitioned to oral bactrim double strength and augmentin 750mg 
every 12 hours. The patient was monitored clinically after the 
transition to oral antibiotics was made, and his erythema 
continued to improve. He was afebrile through the admission and 
blood cultures were monitored. Erythema markedly improved with 
antibiotics. The patient was discharged home with 9 more days of 
oral bactrim and augmentin to complete a 12 day course of 
antibiotics. 
.
#Metastatic renal cell: Patient diagnosed with RCC after biopsy 
of metastatic pulmonary lesion. He has metastatic involvment of 
brain, spinal cord, lungs and larynx. Currently on seizure 
prophylaxis. The patient was continued on his home doseing of 
Keppra- 500mg twice daily. The patient was also continued on 
dexamethasone 1mg daily during his hospital admission.  
.
#History of recurrent pulmonary embolism: Patient with recurrent 
pulmonary emboli, previously anticoagulated with warfarin and 
then changed to lovenox ___. Given hemorrhagic brain 
metastasis, anticoagulation is contraindicated. Status-post IVC 
filter placement by ___. For prophylaxis, the patient had ___ 
hose on at all time. He was also ambulatory through the 
admission. 
.
#Constipation: Likely related to narcotics. Patient was 
maintained on senna, colace and miralax. Mild of magnesia was 
also given to help with constipation.  
. 
#Chronic low back pain with neuropathy: Patient is on gabapentin 
and oxydonone for chronic low back pain and neuropathy. Home 
regimen was continued through the admission.   
.
 
Medications on Admission:
dexamethasone 1 mg start ___ then off on ___ 
fenofibrate [Lipofen] 200 mg Capsule 
finasteride [Proscar] 5 mg  
gabapentin 300 mg Capsule twice a day and 500mg at bedtime 
levetiracetam 500 mg twice a day   
lisinopril 5 mg  
omeprazole 20 mg twice a day 
oxycodone 5 mg Tablet 2 Tablet(s) by mouth four times a day as 
needed for breakthrough pain  
oxycodone [OxyContin] 40 mg Extended Release 12 hr twice a day ; 

trazodone 50 mg at bedtime as needed for insomnia 
acetaminophen [Acetaminophen Extra Strength] 500 mg Tablet 
___ Tablet(s) by mouth every ___ hours as needed for pain  
bisacodyl 5 mg Tablet,  
calcium carbonate [Tums] 
calcium citrate-vitamin D3 315 mg-200 unit Tablet 2 Tablet(s) by 
mouth  
cholecalciferol (vitamin D3) [Vitamin D] 1,000 unit Capsule 1 
Capsule(s) by mouth once a day  
diphenhydramine HCl 25 mg Capsule 2 Capsule(s) by mouth at 
bedtime as needed for insomnia  
fish oil-dha-epa [Fish Oil] 1,200 mg-144 mg Capsule 1 Capsule(s) 
by mouth daily  
magnesium hydroxide [Ex-Lax Milk of Magnesia] 400 mg/5 mL 
Suspension 15 mL by mouth at bedtime (___)  
multivitamin [One Daily Multivitamin] 
polyethylene glycol 3350 17 gram/dose Powder 17 g by mouth daily 
as needed for constipation 
sennosides-docusate sodium [Senokot-S] 8.6 mg-50 mg Tablet 
2 Tablet(s) by mouth two times per day
 
Discharge Medications:
1. dexamethasone 0.5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily): Start ___ and then off ___.  
2. fenofibrate micronized 200 mg Capsule Sig: One (1) Capsule PO 
daily ().  
3. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. gabapentin 300 mg Capsule Sig: One (1) Capsule PO QAM (once a 
day (in the morning)).  
5. gabapentin 300 mg Capsule Sig: One (1) Capsule PO Once Daily 
at 4 ___.  
6. gabapentin 100 mg Capsule Sig: Five (5) Capsule PO HS (at 
bedtime).  
7. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
8. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
10. oxycodone 40 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO Q12H (every 12 hours).  
11. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
12. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily).  
13. senna 8.6 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
14. docusate sodium 100 mg Capsule Sig: Two (2) Capsule PO BID 
(2 times a day).  
15. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
16. diphenhydramine HCl 25 mg Capsule Sig: Two (2) Capsule PO HS 
(at bedtime) as needed for insomnia.  
17. magnesium hydroxide 400 mg/5 mL Suspension Sig: Fifteen (15) 
ML PO at bedtime as needed for constipation.  
18. bisacodyl 5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for constipation.  
19. cholecalciferol (vitamin D3) 1,000 unit Capsule Sig: One (1) 
Capsule PO once a day.  
20. Fish Oil ___ mg Capsule Sig: One (1) Capsule PO 
once a day.  
21. acetaminophen 500 mg Capsule Sig: ___ Capsules PO every ___ 
hours as needed for pain.  
22. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for breakthrough pain.  
23. Bactrim DS 800-160 mg Tablet Sig: One (1) Tablet PO twice a 
day for 8 days.
Disp:*16 Tablet(s)* Refills:*0*
24. amoxicillin-pot clavulanate 875-125 mg Tablet Sig: One (1) 
Tablet PO every twelve (12) hours for 8 days: take with food.
Disp:*16 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Cellulitis at the ___ site

Secondary Diagnosis:
Metastatic Renal Cell Cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___ 
___.

You were admitted with cellulitis at your trachae site. You 
received Iv antibiotics. The redness receeded from the borders 
marked on your admission from to the emergency room. You 
breathing status was stable through the admission and was not 
compromised by the cellulitis at your trach site.

Please take all medications as instructed.

You are being discharged home on two (2) antibiotics that you 
will take for another eight (8) days to complete a full course 
of antibiotics. Take Bactrim Double Strength 1 tablet by mouth 
twice daily and take Augmentin (Amoxicillin-clavulanic acid) 1 
tablet by mouth every 12 hours. 

Please monitor your trach area for signs of worsening infection; 
these signs include worsening redness at the trach site, 
extension of skin redness, pain at the trach site, drainage from 
the trach site, swelling, fevers, and chills. If you start to 
have fevers or notice any worsening symptoms or have any 
concerns, return to the emergency department for further 
evaluation. 

Please keep all follow-up appointments as scheduled. These 
appointments are listed below. During your appointment with Dr. 
___ on ___ please have him re-evaluate the trach site. 
 
Followup Instructions:
___